US06423704B1
Hydrolyze 4-(1-cyclopropylmethyl-1H-benzoimidazol-2-yl)-[1,4]diazepane-1-carboxylic acid tert-butyl ester (0.70 g, 1.81 mmol) by refluxing an ethanol (10 mL) solution of the compound with hydroiodic acid (57%, 5 mL) for 1 hour as described in Example 111 to provide 1-cyclopropylmethyl-2-[1,4]diazepan-1-yl-1H-benzoimidazole dihydroiodide (0.85 g)

reactant | 4-(1-cyclopropylmethyl-1H-benzoimidazol-2-yl)-[1,4]diazepane-1-carboxylic acid tert-butyl ester | 1.81 mmol, 0.70 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1CC1CC1)C=CC=C2 | C21H30N4O2
reactant | hydroiodic acid | 5 mL | I | HI
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 1-cyclopropylmethyl-2-[1,4]diazepan-1-yl-1H-benzoimidazole dihydroiodide | 0.85 g | I.I.C1(CC1)CN1C(=NC2=C1C=CC=C2)N2CCNCCC2 | InChI=1S/C16H22N4.2HI/c1-2-5-15-14(4-1)18-16(20(15)12-13-6-7-13)19-10-3-8-17-9-11-19;;/h1-2,4-5,13,17H,3,6-12H2;2*1H
